US07371748B2
N-(7-[1,4]Dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-4-{[(2-methoxy-ethyl)-methyl-amino]-methyl}-benzamide
4-Chloromethyl-N-(7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-benzamide and N-(2-methoxyethyl)-methylamine were reacted as described for N-(4-methoxy-7-phenyl-benzothiazol-2-yl)-4-pyrrolidin-1-ylmethyl-benzamide in WO01/97786. Usual workup, preparative reversed-phase HPLC and final dry-freezing afforded the title compound as light brown powder. MS: m/e=486(M+H+).

reactant | 4-Chloromethyl-N-(7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-benzamide | ClCC1=CC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3COCCOC3)OC)C=C1 | C21H21ClN2O4S
reactant | N-(2-methoxyethyl)-methylamine | COCCNC | C4H11NO
reactant | N-(4-methoxy-7-phenyl-benzothiazol-2-yl)-4-pyrrolidin-1-ylmethyl-benzamide | COC1=CC=C(C2=C1N=C(S2)NC(C2=CC=C(C=C2)CN2CCCC2)=O)C2=CC=CC=C2 | C26H25N3O2S
product | N-(7-[1,4]Dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-4-{[(2-methoxy-ethyl)-methyl-amino]-methyl}-benzamide | O1CCOCC(C1)C1=CC=C(C=2N=C(SC21)NC(C2=CC=C(C=C2)CN(C)CCOC)=O)OC | C25H31N3O5S
